US07923456B2
5-(2-Fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (64.0 mg, 0.16 mmol) in anhydrous THF (3.6 mL) was added HOBt (56.5 mg, 0.42 mmol, 2.6 eq), DIPEA (0.073 mL, 0.42 mmol, 2.6 mmol), and EDCI (67.8 mg, 0.35 mmol, 2.2 eq), and the reaction mixture was stirred at room temperature under N2 for 2 h. Concentrated aqueous ammonium hydroxide solution (0.50 mL) was added and the reaction mixture was stirred at room temperature for 20 h. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with a saturated aqueous solution of ammonium chloride, water and brine. The organic layer was isolated and dried (Na2SO4), filtered, and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 20% methanol in dichloromethane) to give an oil. Crystallization from DCM-ether-hexane afforded the title compound as a beige solid (9.9 mg, 16.0%). 1H NMR (MeOD, 400 MHz) δ ppm 8.74 (s, 1H), 7.86 (s, 1H), 7.79 (s, 1H), 7.62 (dd, J=10.4 Hz, 2.0 Hz, 1H), 7.48 (d, J=8.4 Hz, 1H), 6.59 (t, J=8.4 Hz, 1H); LCMS (method D1): RT=0.84 min, [M+H]+=398.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid | 0.16 mmol, 64.0 mg | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)O | C13H8FIN4O2
reactant | HOBt | 0.42 mmol, 56.5 mg, 2.6 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.42 mmol, 0.073 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.35 mmol, 67.8 mg, 2.2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | ammonium hydroxide | 0.50 mL | [OH-].[NH4+]
solvent | THF | 3.6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-Fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide | 9.9 mg, 16.0% | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)N | C13H9FIN5O
